Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
___ 01:09PM BLOOD WBC-2.7* RBC-3.91* Hgb-12.8* Hct-38.2* 
MCV-98 MCH-32.7* MCHC-33.5 RDW-14.6 RDWSD-52.8* Plt Ct-83*
___ 01:09PM BLOOD ___ PTT-25.4 ___
___ 01:09PM BLOOD Glucose-74 UreaN-13 Creat-0.9 Na-144 
K-4.4 Cl-100 HCO3-19* AnGap-25*
___ 01:09PM BLOOD ALT-88* AST-224* AlkPhos-95 TotBili-0.9
___ 01:09PM BLOOD Albumin-4.4 Calcium-9.6 Phos-4.1 Mg-1.5*
___ 05:40AM BLOOD calTIBC-269 VitB12-995* Hapto-<10* 
Ferritn-540* TRF-207

___ 08:32AM BLOOD WBC-3.3* RBC-4.17* Hgb-13.4* Hct-40.8 
MCV-98 MCH-32.1* MCHC-32.8 RDW-13.6 RDWSD-49.3* Plt Ct-70*
___ 08:32AM BLOOD Glucose-77 UreaN-8 Creat-0.9 Na-141 K-4.3 
Cl-104 HCO3-21* AnGap-16
___ 08:32AM BLOOD ALT-49* AST-73* AlkPhos-81 TotBili-1.1

RUQ US (___)
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease 
including steatohepatitis, hepatic fibrosis, or cirrhosis cannot 
be excluded 
on the basis of this examination. 
2. Cholelithiasis without acute cholecystitis. 

CXR (___)
No acute cardiopulmonary process.

 
Brief Hospital Course:
___ y/o M with PMHx of EtOH abuse, migraines, HTN, 
anxiety/depression, PTSD, who presented with EtOH withdrawal in 
the setting of lack of access to EtOH ___ being in police 
custody.

# ALCOHOL WITHDRAWAL
# ALCOHOL USE DISORDER
As per HPI, the patient endorsed drinking a gallon of hard 
liquor per day with last drink the day prior to presentation. He 
presented with symptoms c/w prior episodes of EtOH withdrawal. 
He was treated with valium and then phenobarb with improvement 
in his symptoms.  His CIWA trended down and he was maintained on 
thiamine and folate on discharge.

# PANCYTOPENIA: Likely related to marrow suppression in the 
setting of EtOH abuse. No evidence of bleeding on exam.

# EtOH hepatitis:
Likely related to EtOH abuse. AST>ALT consistent with this. 
Downtrended.  Coags and albumin WNL, reassuring against hepatic 
dysfunction.

# Depression:
No evidence of decompensation

#Constipation: No BM for 3 days during hospitalization. 
Developed mild LLQ TTP. Started on Senna BID + Miralax QD.

Transitional issues
[] Outpatient follow up with PCP regarding ongoing alcohol 
cessation and monitoring AST/ALT while continuing to downtrend.
[] If no BM within 48 hours of hospital discharge, recommend 
dulcolax suppository or tap water enema 

Greater than 40 mins spent in discharge planning and 
coordination of care.

___
Attending Physician
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Acetaminophen 650 mg PO Q6H:PRN Headache 
RX *acetaminophen 650 mg 1 tablet(s) by mouth every six (6) 
hours Disp #*28 Tablet Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*7 
Tablet Refills:*0 
3.  Polyethylene Glycol 17 g PO DAILY 
RX *polyethylene glycol 3350 [ClearLax] 17 gram 1 dose by mouth 
once a day Disp #*7 Packet Refills:*0 
4.  Sarna Lotion 1 Appl TP QID:PRN itchiness 
RX *camphor-menthol [Sarna Original] 0.5 %-0.5 % 0.5% topical 
application four times a day Refills:*0 
5.  Senna 8.6 mg PO BID 
RX *sennosides [senna] 8.6 mg 1 tablet by mouth twice a day Disp 
#*14 Tablet Refills:*0 
6.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) [Vitamin B-1] 100 mg 1 tablet(s) 
by mouth once a day Disp #*7 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcohol withdrawal
Alcohol use disorder
Alcohol hepatitis
pancytopenia
Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for alcohol withdrawal treatment.  You were 
also found to have mild liver inflammation and low blood counts.

It is very important that you stop drinking to prevent permanent 
damage to your body.  Please take all medications as prescribed.

For your constipation, we have started you on medications to 
help you move your bowels (Senna and Miralax).

For your nightmares, given that they started with your admission 
to the hospital, we believe it has to do with the new 
environments. As a result, we don't recommend starting any new 
medications at this time and rather recommend continuing to 
monitor. 

It was a pleasure taking care of you

- Your ___ Team
 
Followup Instructions:
___